data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_542295_2,[C:1]([C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])=[O:9])([C:6](=[C:7]([H:19])[H:20])[H:12])([O:8][H:10])[H:11]>>[C:1]([C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([C:6](=[C:7]([H:19])[H:20])[H:12])[O:9][H:10])(=[O:8])[H:11],54.42558500002221
MR_484523_1,[C:1]([C:4]1(/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:9]\[H:11])[C:6]([H:18])([H:19])[C:3]([O:7][H:10])=[N:8]1)([H:12])([H:13])[H:14]>>[C:1]([C:4](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:9]\[H:11])=[N:8]\[C:3](=[C:6]([H:18])[H:19])[O:7][H:10])([H:12])([H:13])[H:14],35.55477749997664
MR_390828_1,[C:1]([C:3](=[C:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[N:7]=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[N:7][C:6]([H:15])([H:16])[C:2]1([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])([H:12])([H:13])[H:14],37.707102499999934
MR_423978_0,[C:1]([N:2](/[C:3]([O:5][H:8])=[N:6]\[H:9])/[C:4](=[N:7]\[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:3](\[O:5][H:8])[N:6](/[C:4](=[N:7]\[H:10])[H:11])[H:9])([H:12])([H:13])[H:14],49.607012499989054
MR_661560_0,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])(/[C:5]([C:3]([H:17])([H:18])[H:19])=[N:8]/[O:7][H:9])([N:6]([H:12])[H:13])[H:11]>>[C:1](\[C:5]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])[N:8]([O:7][H:9])[H:12])(=[N:6]/[H:13])[H:11],61.89346250003666
MR_311222_1,[C:1]([C:4]([N:3]([N:6]([H:13])[H:14])[H:11])([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[N:9]([H:10])[H:15])(=[O:8])[H:12]>>[C:1]([N:3]([N:6]([H:13])[H:14])[H:11])(/[C:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])=[N:9]/[H:15])([O:8][H:10])[H:12],27.38849250001337
MR_697984_1,[C:1](/[C:3]([N:6]([H:13])[H:14])=[C:7]([C:2](/[N:5]([H:11])[H:12])=[N:8]/[N:4]([H:9])[H:10])\[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:3]1([N:6]([H:13])[H:14])[C:7]([H:15])=[C:2]([N:5]([H:11])[H:12])[N:8]1[N:4]([H:9])[H:10])([H:16])([H:17])[H:18],47.82930500001868
MR_39525_1,[N:1]([N:2]([N:5]([H:11])[H:12])[H:10])(/[C:4]([N:3]([N:6]([H:13])[H:14])[H:9])=[N:7]\[H:15])[H:8]>>[N:1]([N:2]([N:5]([H:11])[H:12])[H:9])(/[C:4]([N:3]([N:6]([H:13])[H:14])[H:10])=[N:7]\[H:15])[H:8],56.21270499996882
MR_87709_0,[C@@:1]([C:2]([H:11])([H:12])[H:13])([N:3]([C:4](=[O:6])[H:10])[H:8])([O:5][H:7])[H:9]>>[C@:1]([C:2]([H:11])([H:12])[H:13])([O:5][H:7])([O:6][C:4]([N:3][H:8])[H:10])[H:9],59.803887499997614
MR_228307_0,[C:1]([C:2]([O:6][H:9])([H:13])[H:14])([C:3]([O:5][H:8])=[O:7])([N:4]([H:11])[H:12])[H:10]>>[C:1]([C:2](=[O:6])[H:13])([C:3]([O:5][H:8])([O:7][H:9])[H:14])([N:4]([H:11])[H:12])[H:10],69.0042924999895
MR_163202_2,[C:1]([C:2]([N:5]([H:14])[H:15])([O:6][O:7][H:9])[H:11])([C:3]([H:16])([H:17])[H:18])([N:4]([H:12])[H:13])[O:8][H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([H:12])[H:13])([O:6][C:2]([N:5]([H:14])[H:15])([O:7][H:9])[H:11])[O:8][H:10],31.16918000002741
MR_114036_0,[C:1]([N:2]([C:3]([O:6][H:8])=[O:7])[O:5][N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:2]1[C@:3]([O:5][N:4]([H:9])[H:10])([O:6][H:8])[O:7]1)([H:11])([H:12])[H:13],69.57908249996507
MR_201844_1,[C:1](/[N:6]=[C:3](\[N:4]([H:9])[H:10])[N:7](/[C:5](=[N:2]/[H:8])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[N:6]=[C:3](/[N:2](/[C:5](=[N:7]/[H:11])[H:12])[H:8])[N:4]([H:9])[H:10])([H:13])([H:14])[H:15],58.6932125000196
MR_1771_0,[C:1]([C:3](/[C:2](=[C:4](/[O:6][H:9])[H:10])[O:5][H:8])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[C:2]([O:5][H:8])[C@@:4]([O:6][H:9])([H:10])[O:7]1)([H:11])([H:12])[H:13],47.20996249997725
MR_669752_1,[C:1](/[C:4]([N:3]([N:6]([H:11])[H:12])[O:8][N:5]([H:9])[H:10])=[C:7](/[C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:4](=[N:3]\[N:6]([H:11])[H:12])[C@@:7]([C:2]([H:17])([H:18])[H:19])([O:8][N:5]([H:9])[H:10])[H:13])([H:14])([H:15])[H:16],14.942030000013062
MR_515796_1,[C:1]1([C:4]([H:15])([H:16])[H:17])([N:7]([H:11])[H:12])[C:3]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])([H:10])[O:9]1>>[C:1]([C:3]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[H:10])([N:7]([H:11])[H:12])=[O:9],62.08735999997515
MR_271313_0,[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([N:3]([O:7][H:8])[H:9])[N:6]([H:10])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:5]1([C:2]([H:14])([H:15])[H:16])[N:3]([H:9])[C:4]1([N:6]([H:10])[H:11])[O:7][H:8])([H:12])([H:13])[H:17],39.8700949999963
MR_538628_0,[C:1]1([H:6])([H:7])[N:2]([H:5])[C:3]([H:8])=[C:4]1[H:9]>>[C:1](=[C:4](/[C:3](=[N:2]\[H:5])[H:8])[H:9])([H:6])[H:7],26.505599999995297
MR_679151_0,[C:1]([O:5][N:2]([C:3]([N:4]([H:11])[H:12])=[O:8])[O:6][H:9])([O:7][H:10])([H:13])[H:14]>>[C:1]([O:5][N:2]([C:3]([N:4]([H:11])[H:12])([O:8][H:10])[H:14])[O:6][H:9])(=[O:7])[H:13],57.88687500002226
MR_78357_0,[C:1](/[C:3](=[C:2](\[O:6][C:4](=[C:5]([H:15])[H:16])[H:11])[O:7][H:9])[O:8][H:10])([H:12])([H:13])[H:14]>>[C:1]([C:3]([C:2](=[O:6])[O:7][H:9])([C:4](=[C:5]([H:15])[H:16])[H:11])[O:8][H:10])([H:12])([H:13])[H:14],57.20980250001958
